US08076516B2
Deprotection of tert-butyl 2-(3-(pyridin-2-ylethynyl)phenoxy)ethylcarbamate with HCl-dioxane following the method used in Example 13 gave 2-(3-(pyridin-2-ylethynyl)phenoxy)ethanamine hydrochloride as a white solid.

reactant | tert-butyl 2-(3-(pyridin-2-ylethynyl)phenoxy)ethylcarbamate | N1=C(C=CC=C1)C#CC=1C=C(OCCNC(OC(C)(C)C)=O)C=CC1 | C20H22N2O3
reactant | HCl dioxane | Cl.O1CCOCC1
product | 2-(3-(pyridin-2-ylethynyl)phenoxy)ethanamine hydrochloride | Cl.N1=C(C=CC=C1)C#CC=1C=C(OCCN)C=CC1 | InChI=1S/C15H14N2O.ClH/c16-9-11-18-15-6-3-4-13(12-15)7-8-14-5-1-2-10-17-14;/h1-6,10,12H,9,11,16H2;1H
